US07875610B2
(4,5-Dichloro-6-piperazin-1-yl-pyrimidin-2-yl)-methyl-amine dihydrochloride (Intermediate Compound 2a)
2.6 g (7.2 mmol) 4-(5,6-dichloro-2-methylamino-pyrimidin-4-yl)-piperazine-1-carboxylic acid tert-butyl ester was deprotected at 10° C. using 100 ml ethylacetate saturated with gaseous hydrochloric acid. After 4 hours the precipitate was filtered giving the title compound (2.4 g, 100%), melting at 204-209° C.

reactant | 4-(5,6-dichloro-2-methylamino-pyrimidin-4-yl)-piperazine-1-carboxylic acid tert-butyl ester | 7.2 mmol, 2.6 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=NC(=C1Cl)Cl)NC | C14H21Cl2N5O2
reactant | hydrochloric acid | Cl | ClH
solvent | ethylacetate | 100 ml | C(C)OC(C)=O | C4H8O2
product | (4,5-Dichloro-6-piperazin-1-yl-pyrimidin-2-yl)-methyl-amine dihydrochloride | 2.4 g, 100% | Cl.Cl.ClC1=NC(=NC(=C1Cl)N1CCNCC1)NC | InChI=1S/C9H13Cl2N5.2ClH/c1-12-9-14-7(11)6(10)8(15-9)16-4-2-13-3-5-16;;/h13H,2-5H2,1H3,(H,12,14,15);2*1H
